US07919519B2
A mixture of 5-(bromomethyl)-2-chloro-3-fluoropyridine (2.0 g, 8.91 mmol) and hexamethylenetetramine (2.75 g, 19.6 mmol) in 50% aqueous acetic acid (53 ml) was heated to reflux. After 1 hour, the mixture was cooled to room temperature, neutralized carefully with solid NaHCO3 (73.7 g), diluted with water (400 mL) and extracted with dichloromethane (2×100 mL). The combined organic extracts were dried over anhydrous sodium sulfate, concentrated on a rotary evaporator and purified by silica gel column chromatography (hexane/ethyl acetate) to afford 6-chloro-5-fluoronicotinaldehyde as pale-yellow solid: 1H NMR (400 MHz, CDCl3) δ 10.12 (d, J=2.4 Hz, 1H), 8.72 (d, J=1.6 Hz, 1H), 7.94 (dd, J=2.0, 8.0 Hz, 1H); 19F NMR (376 MHz, CDCl3) δ −116.3.

reactant | 5-(bromomethyl)-2-chloro-3-fluoropyridine | 8.91 mmol, 2.0 g | BrCC=1C=C(C(=NC1)Cl)F | C6H4BrClFN
reactant | hexamethylenetetramine | 19.6 mmol, 2.75 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | NaHCO3 | 73.7 g | C(=O)(O)[O-].[Na+]
solvent | acetic acid | 53 ml | C(C)(=O)O | C2H4O2
solvent | water | 400 mL | O | H2O
product | 6-chloro-5-fluoronicotinaldehyde | ClC1=NC=C(C=O)C=C1F | C6H3ClFNO
